Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Unexplained abdominal pelvic pain, Newly diagnosed right ovarian 
cyst, Uterine fibroids.
 
Major Surgical or Invasive Procedure:
1. Exam under anesthesia.
2. Laparoscopic right salpingo-oophorectomy.
3. Laparoscopic excision of endometriosis (left bladder).
4. Extensive lysis of adhesions (extensive bowel, bladder).
5. Right ureterolysis.
6. Cystoscopy with right ureteral catheterization and
    removal.
7. Biopsy of uterine serosa lesions.
 
History of Present Illness:
___ G0, P0 premenopausal
Caucasian female with a history of thrombocytopenia, psoriasis,
and seasonal allergies.  She reports regular menses at baseline
at ___ day intervals with three days of moderate flow.  She
does experience occasional dyspareunia and reports only modest
cramps on day one of her cycle.  More recently, she had an
episode of unexplained severe diffuse abdominal pelvic pain that
was on day 12 of her prior cycle.  LMP was ___. 
Pain began on ___.  The severe pain, which is 
___
pain lasted roughly 2 days.  The patient describes the pain as
debilitating and she was in the fetal position for roughly 2
days.  She did self-medicate with Advil and Tylenol with no
improvement of her pain.  The severe pain was then followed by
mild-to-moderate pain that lasted a total of three weeks until
the onset of her next menses, which began on ___. 

The patient is currently on day three of her current menstrual
cycle, with improvement of her pelvic pain. 

3 days after the onset of pain, the patient's PCP ordered an
abdominal ultrasound as part of the pain evaluation.  A right
ovarian cyst measuring 5.7 x 5.2 x 4.6 cm was noted on the
abdominal US.  A pelvic ultrasound was subsequently ordered for
further evaluation of the cyst finding. PUS ___ an anteverted uterus measuring 8.4 x 6.6 x 6.4 cm
with a 3.1 cm fundal fibroid and a 1.5 cm lower uterine segment
fibroid.  The endometrial stripe measured 5 mm.  There was a 6.9
x 4.5 x 4.1 cm simple right ovarian cyst.  There is no comment
regarding the left ovary.

Given the pelvic ultrasound findings, the patient was advised to
seek consultation with myself.  She has no other specific
gynecologic complaints.
 
Past Medical History:
OB HX:  G0P0.
-- Patient has never actively tried to conceive, but she has not
used contraception for the last ___ years since age ___ and has 
not
conceived spontaneously.

GYN HX:  
-- Menarche age ___.  LMP, ___.
-- Regular menses at ___ day intervals with three days of
moderate flow, moderate cramps on day#1 of cycle, occasional
dyspareunia.  Denies any notable endometriosis like symptoms.  
Severe debilitating pain on ___.  See HPI. 
-- Last ___ negative SIL candidiasis noted.
-- The patient is sexually active.  Reports three sexual 
partners
throughout life, monogamous and heterosexual.
-- Contraception:  None per patient report has never conceived
for the past ___ years.
-- STD History:  Denies.

MED PROBS:
1.  Thrombocytopenia, platelet nadir 65 several years ago.  More
recently ranging between 90-110.  Father with ITP.
2.  Psoriasis.
3.  Seasonal allergies.
4.  Right ovarian cyst 6.9 cm on PUS.
5.  Small fibroid uterus.
6.  Recent episode of abd- pelvic pain, undergoing current eval.
7.  Primary Infertility? (no REI testing, no BC x ___ yrs)

SURG HX:
1.  ___, cataract surgery.
2.  Tooth extraction.  Neither procedure resulted menorrhagia in
the setting of thrombocytopenia.

 
Social History:
___
Family History:
-- Denies any gynecologic cancers in the family.
-- Patient's maternal grandmother with lymphoma.
-- Patient's father with hypertension, heart disease,
hypercholesterolemia and ITP.
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
___ 07:25AM   PLT COUNT-83*
___ 07:25AM   WBC-4.7 RBC-5.10 HGB-12.9 HCT-41.4 MCV-81* 
MCH-25.3* MCHC-31.2* RDW-15.7* RDWSD-45.8
___ 06:04AM BLOOD WBC-7.1# RBC-4.06 Hgb-10.3* Hct-33.4* 
MCV-82 MCH-25.4* MCHC-30.8* RDW-15.9* RDWSD-47.6* Plt Ct-71*
___ 06:04AM BLOOD Glucose-116* UreaN-9 Creat-0.6 Na-137 
K-3.8 Cl-104 HCO3-26 AnGap-11
___ 06:04AM BLOOD Calcium-8.0* Phos-2.9 Mg-2.3
 
Brief Hospital Course:
On ___, Ms. ___ underwent an exam under 
anesthesia, laparoscopic right salpingo-oophorectomy, 
laparoscopic excision of endometriosis (left bladder), extensive 
lysis of adhesions (extensive bowel, bladder), right 
ureterolysis, cystoscopy with right ureteral catheterization and 
removal, and biopsy of uterine serosa lesions. Please see the 
operative report for full details.  She was admitted to the 
gynecology service for observation postoperatively due to 
urinary retention, which resolved on POD#1.

Immediately post-op, her pain was controlled with PO oxycodone 
and Tylenol. Her post-operative course was complicated for 
urinary retention in the PACU, her foley was therefore replaced 
and she was admitted overnight. On post-operative day 1, her 
urine output was adequate so her foley was removed with a 
voiding trial and she voided spontaneously. Her diet was 
advanced without difficulty and pain remained controlled on PO 
oxycodone and tylenol. 

By post-operative day #1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
cacopotriene 0.005% qd prn psoriasis, clobetasol bid prn, 
fluticasone 50 QD, halobetasol prn, triazolam QD, Ca, Vit D, 
ibuprofen, MVI
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
Do not exceed 4000 mg acetaminophen 
2. Docusate Sodium 100 mg PO BID 
3. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
4. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
___ cause drowsiness, do not drive while taking.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right ovarian cyst, endometriosis, urinary retention now 
resolved

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the gynecology service after your procedure 
due to urinary retention. You have recovered well and the team 
believes you are ready to be discharged home. Please call Dr. 
___ office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 2 
weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* You

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___